US04994483
(i) (E)-2-(1H-indol-5-yl)-N-methylethenesulphonamide
A mixture of 5-bromoindole (6.6 g), N-methylethenesulphonamide (5.1 g) palladium (II) acetate (75 mg), tri-o-tolylphosphine (0.2 g), triethylamine (12 ml), and acetonitrile (5 ml) was heated at 100° in an autoclave for 3 h. The reaction mixture was cooled and partitioned between hydrochloric acid (1N, 300 ml) and ethyl acetate (2×150 ml). The combined extracts were dried, (Na2SO4) and evaporated in vacuo to give an oil which was purified by `flash` chromatography (Q, 7 cm dia. col.) to give the title compound as a solid (2.3 g) m.p. 164√-166°.

reactant | 5-bromoindole | 6.6 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | N-methylethenesulphonamide | 5.1 g | CNS(=O)(=O)C=C | C3H7NO2S
reactant | triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
catalyst | tri-o-tolylphosphine | 0.2 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (E)-2-(1H-indol-5-yl)-N-methylethenesulphonamide | 2.3 g | N1C=CC2=CC(=CC=C12)/C=C/S(=O)(=O)NC | C11H12N2O2S
